US07034039B2
To a solution (30 mL) of tert-butyl(6-cyano-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.86 g, 2.0 mmol) in toluene were added sodium azide (0.16 g, 2.5 mmol) and triethylamine hydrochloride (0.28 g, 2.5 mmol) and the mixture was stirred at 90° C. for 24 h. The reaction mixture was poured into water (100 mL), acidified with 1N hydrochloric acid and extracted twice with ethyl acetate (50 mL). The extracts were combined and washed with saturated brine (15 mL), dried over anhydrous magnesium sulfate (12 g) and concentrated under reduced pressure. The residue was recrystallized from tetrahydrofuran-diisopropyl ether (1:5) to give tert-butyl [2-isobutyl-1-oxo-4-phenyl-6-(2H-tetrazol-5-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.36 g, 37%) as colorless crystals.

reactant | tert-butyl(6-cyano-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 2.0 mmol, 30 mL, 0.86 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C#N)=O)CC(C)C)=O | C26H29N3O3
reactant | sodium azide | 2.5 mmol, 0.16 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 2.5 mmol, 0.28 g | Cl.C(C)N(CC)CC
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
product | tert-butyl [2-isobutyl-1-oxo-4-phenyl-6-(2H-tetrazol-5-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.36 g, 37% | C(C(C)C)N1C(C2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=CC=C1)C=1N=NNN1)=O | C26H30N6O3
